* Schematics Netlist *



L_L1         $N_0001 $N_0002  3m  
C_C1         $N_0001 $N_0002  0.21u  
R_R1         0 $N_0002  0.1k  
V_V1         $N_0003 0  
+SIN 0 10 5.3k 0 0 0
X_U1         $N_0003 $N_0001 Sw_tClose PARAMS: tClose=0 ttran=1u Rclosed=10
+  Ropen=1Meg
